US08212041B2
3-((7-Methoxyquinolin-4-yloxy)methyl)-[1,2,4]triazolo[4,3-a]pyridine-6-carbonitrile (0.050 g, 0.15 mmol) was dissolved in concentrated sulfuric acid (0.5 mL). The reaction mixture was heated at 50° C. for 30 minutes. The reaction mixture was slowly poured in to cold saturated aqueous sodium bicarbonate. A precipitate formed which was collected on a glass frit, washing with water. The solid was transferred with dichloromethane/methanol to a flask and dried under high vacuum to afford 3-((7-methoxyquinolin-4-yloxy)methyl)-[1,2,4]triazolo[4,3-a]pyridine-6-carboxamide (0.050 g, 95% yield) as a tan solid.

reactant | 3-((7-Methoxyquinolin-4-yloxy)methyl)-[1,2,4]triazolo[4,3-a]pyridine-6-carbonitrile | 0.15 mmol, 0.050 g | COC1=CC=C2C(=CC=NC2=C1)OCC1=NN=C2N1C=C(C=C2)C#N | C18H13N5O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | sulfuric acid | 0.5 mL | S(O)(O)(=O)=O | H2O4S
product | 3-((7-methoxyquinolin-4-yloxy)methyl)-[1,2,4]triazolo[4,3-a]pyridine-6-carboxamide | 0.050 g, 95% yield | COC1=CC=C2C(=CC=NC2=C1)OCC1=NN=C2N1C=C(C=C2)C(=O)N | C18H15N5O3
